US05443970
To a solution of 4-hydroxy-6-methyltetrahydropyran-2-one (1.5 parts) in dichloromethane (40 parts) was added pyridine (1.1 parts) and then, over 15 minutes, mesyl chloride (1.65 parts). The reaction was set aside at ambient temperature under N2 for 18 hours at which point GLC analysis indicated less than 1.5% of the starting material remained. The reaction mixture was filtered and the organic phase then washed with water before evaporating to obtain 4-mesyloxy-6-methyl-tetrahydropyran-2-one (0.5 parts).

reactant | 4-hydroxy-6-methyltetrahydropyran-2-one | OC1CC(OC(C1)C)=O | C6H10O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-mesyloxy-6-methyl-tetrahydropyran-2-one | S(=O)(=O)(C)OC1CC(OC(C1)C)=O | C7H12O5S
